US05994569
14.11 g (126 mmol) of propargyltrimethylsilane was dissolved in 125 ml of abs. toluene and cooled to -17°. 81.1 ml of nBuLi (1.55 M, hexane) was slowly added while keeping the temperature below -5°. 5 Minutes later, 126 ml of Me2AlCl (1 M, hexane) was added to this solution of the Li-acetylide. The temperature was then lowered to -45° and 6.90 ml of (R)-epichlorohydrine (88 mmol), dissolved in 50 ml of toluene, was added. The cooling bath was then removed and the reaction mixture allowed to reach ambient temperature during 24h. After careful quenching with icecold water and filtration, the product was extracted with ether, washed with NH4Cl, dried over sodium sulfate and the solvents removed i. V. Flash chromatography (SiO2, hexane/AcOEt=86/14) yielded 12.01 g of (R)-1-chloro-6-trimethylsilanyl-hex-4-yn-2-ol as colorless oil, 97% pure according to GC.

reactant | propargyltrimethylsilane | 126 mmol, 14.11 g | C(C#C)[Si](C)(C)C | C6H12Si
reactant | nBuLi | 1.55 M, 81.1 ml | [Li]CCCC
reactant | Me2AlCl | 1 M, 126 ml | [Al](C)(C)Cl
reactant | (R)-epichlorohydrine | 88 mmol, 6.90 ml | C(Cl)[C@H]1CO1 | C3H5ClO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-1-chloro-6-trimethylsilanyl-hex-4-yn-2-ol | 12.01 g | ClC[C@@H](CC#CC[Si](C)(C)C)O | C9H17ClOSi
